US08604061B2
To a stirred solution of (S)-4-[(Z)-2-bromo-2-(4-chloro-phenyl)-vinyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (1.04 g) in THF (8 ml) were added bis(tri-tert-butylphosphine)dipalladium (0) (64 mg) and diethylzinc (4.99 ml, 1.1 M solution in toluene). The mixture was stirred at r.t. for 90 min then was diluted with ethyl acetate and washed with saturated brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by column chromatography (SiO2; gradient: heptane/EtOAc) to give (S)-4-[(E)-2-(4-chloro-phenyl)-but-1-enyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (824 mg, 90%) as a colourless oil. MS (ISP): 368.5 ([{37Cl}M+H]+), 366.5 ([{35Cl}M+H]+).

reactant | (S)-4-[(Z)-2-bromo-2-(4-chloro-phenyl)-vinyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.04 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1\C=C(\C1=CC=C(C=C1)Cl)/Br)(C)C | C18H23BrClNO3
reactant | diethylzinc | 1.1 M, 4.99 ml | C(C)[Zn]CC
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-[(E)-2-(4-chloro-phenyl)-but-1-enyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 824 mg, 90% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1\C=C(/CC)\C1=CC=C(C=C1)Cl)(C)C | C20H28ClNO3
